US05663297
Analogously as described in a), from Z-Gly-OSu and H-Asp(OtBu)-Ser(tBu)-OtBu there is obtained Z-Gly-Asp(OtBu)-Ser(tBu)-OtBu, yield: 86%, [α]D -6.9° (c 0.9, MeOH).

reactant | Z-Gly-OSu | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H14N2O6
reactant | H-Asp(OtBu)-Ser(tBu)-OtBu | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C19H36N2O6
solvent | MeOH | CO | CH4O
product | Z-Gly-Asp(OtBu)-Ser(tBu)-OtBu | yield: 86% | N(CC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C29H45N3O9
